US09284291B2
1-[1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-yl]-1-(morpholine-4-yl)methanimine
Using 400 mg of 1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile hydrobromide (citalopram HBr) and morpholine (1.5 equiv) gave, after heating at 80° C. for 28 h, title product (75 mg, 15% yield) as a white solid.

reactant | 1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile hydrobromide | 400 mg | Br.CN(CCCC1(OCC2=C1C=CC(=C2)C#N)C2=CC=C(C=C2)F)C
reactant | morpholine | 1.5 equiv | N1CCOCC1 | C4H9NO
product | 1-[1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-yl]-1-(morpholine-4-yl)methanimine | 75 mg, 15% yield | CN(CCCC1(OCC2=C1C=CC(=C2)C(=N)N2CCOCC2)C2=CC=C(C=C2)F)C | C24H30FN3O2
